US07157487B2
(Step 3) Synthesis of 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionic acid
Methyl 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionate (2.84 g, 9.30 mmol) was dissolved in THF (40 ml). To the resulting solution was added 0.25N NaOH (40 ml) and the mixture was stirred at room temperature for 19 hours. The solvent was distilled off under reduced pressure. After the residue was acidified with 1N HCl, extraction was conducted with ethyl acetate. The extract was washed with ice water and brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (2.48 g, 92%) was obtained as a colorless oil (this compound was provided for the subsequent reaction without further purification).

reactant | Methyl 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionate | 9.30 mmol, 2.84 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCC(=O)OC | C14H24FNO5
reactant | NaOH | 0.25N, 40 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)propionic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCC(=O)O | C13H22FNO5
